US04000294
(3-Amino-4-methyl-1-(4-chlorobenzyl)-pyrazol-5-one).
31.2 g of p-chlorobenzylhydrazine were added dropwise under nitrogen to a solution of 34.6 g of β-amino-β-ethoxymethacrylic acid ethyl ester and a pinch of p-toluenesulphonic acid in 200 ml of ethanol, whereupon the temperature rose from 21° to 31° C. After standing overnight, the product which had precipitated was filtered off and recrystallized from ethanol.

reactant | p-chlorobenzylhydrazine | 31.2 g | ClC1=CC=C(CNN)C=C1 | C7H9ClN2
reactant | β-amino-β-ethoxymethacrylic acid ethyl ester | 34.6 g | C(C)OC(C(=COC(C)N)C)=O | C8H15NO3
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethanol | 200 ml | C(C)O | C2H6O
product | 3-Amino-4-methyl-1-(4-chlorobenzyl)-pyrazol-5-one | NC=1NN(C(C1C)=O)CC1=CC=C(C=C1)Cl | C11H12ClN3O
